US07550629B2
J. (2S)-2-(4-Chloro-benzenesulfonylamino)-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)-pentanoic acid methyl ester
4-Chlorophenyl sulphonyl chloride (211 mg, 1.00 mmol) was added to a solution of (2S)-2-amino-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)-pentanoic acid methyl ester (267 mg, 1.00 mmol) and pyridine (0.45 mL, 3.00 mmol) in CH2Cl2 (5 mL) and the reaction was subsequently stirred for 18 h at 25° C. The solvent was removed in vacuo and the residue was dissolved in EtOAc (20 mL). This solution was washed with 1M HCl (2×10 mL) and brine (10 mL), dried over Na2SO4 and evaporated to afford a crude oil which was purified by flash chromatography eluting with 20:80 EtOAc:hexanes to provide the title compound (380 mg) as an oil in 86% yield. Mass Spectrum (−ESI): 446.0 [M−H]−.

reactant | 4-Chlorophenyl sulphonyl chloride | 1.00 mmol, 211 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | (2S)-2-amino-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)-pentanoic acid methyl ester | 1.00 mmol, 267 mg | COC([C@H](C(CC(F)(F)F)CC(F)(F)F)N)=O | C8H11F6NO2
reactant | pyridine | 3.00 mmol, 0.45 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (2S)-2-(4-Chloro-benzenesulfonylamino)-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)-pentanoic acid methyl ester | 380 mg, 86% yield | COC([C@H](C(CC(F)(F)F)CC(F)(F)F)NS(=O)(=O)C1=CC=C(C=C1)Cl)=O | C14H14ClF6NO4S
